US09162987B2
4-Iodo-6-(3,4-difluorophenyl)pyrimidine (ACT-MIF-032)
The compound was prepared according to Example 1 using 3,4-difluorophenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 3,4-difluorophenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(3,4-difluorophenyl)pyrimidine | IC1=NC=NC(=C1)C1=CC(=C(C=C1)F)F | C10H5F2IN2
